US07807672B2
Synthesis of 1-tert-butoxycarbonylmethyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester
To a stirred mixture of 3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester (444 mg, 1.54 mmol), triethylamine (214 μl, 1.54 mmol) and cesium carbonate (251 mg, 0.77 mmol) in acetonitrile (5 ml) was added tert-butyl bromoacetate (351 μl, 2.38 mmol) slowly. The mixture was stirred for 1 hour, filtered and concentrated. The residue was diluted with ethyl acetate, washed with water and dried over MgSO4. Solvent was removed under reduced pressure to give a crude product that was purified by column chromatography on silica gel. Elution with a solution of ethyl acetate in hexanes (1:4) provided 580 mg (94%) of the title compound.

reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 1.54 mmol, 444 mg | C(C)OC(=O)C1(CNCC1)C(O[SiH2]C(C)(C)C)(C)C | C14H29NO3Si
reactant | triethylamine | 1.54 mmol, 214 μl | C(C)N(CC)CC | C6H15N
reactant | cesium carbonate | 0.77 mmol, 251 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl bromoacetate | 2.38 mmol, 351 μl | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-tert-butoxycarbonylmethyl-3-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-3-carboxylic acid ethyl ester | 580 mg, 94% | C(C)OC(=O)C1(CN(CC1)CC(=O)OC(C)(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H39NO5Si
